US07153854B2
To a suspension of 60% NaH (74 mg) in DMF (3 mL) was added ethyl 3-[4-(5-bromo-3-pyridinyl)-7-ethyl-2-(hydroxymethyl)pyrrolo[1,2-b]pyridazin-3-yl]propanoate (200 mg) under ice-water cooling, and the mixture was stirred at 0° C. for 0.5 hour. To this was added 3-(bromomethyl)pyridine hydrobromide (234 mg) under ice-water cooling, and the mixture was stirred at ambient temperature for 2 hours. The mixture was partitioned between AcOEt and water. The aqueous layer was separated, acidified to pH 3–4 with HCl and extracted with AcOEt. The organic layer was washed with water and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of CHCl3 and MeOH (100:1-20:1) to give 3-{4-(5-bromo-3-pyridinyl)-7-ethyl-2-[(3-pyridinylmethoxy)methyl]pyrrolo[1,2-b]pyridazin-3-yl}propanoic acid as a yellow powder (110 mg).

reactant | NaH | 74 mg | [H-].[Na+]
reactant | ethyl 3-[4-(5-bromo-3-pyridinyl)-7-ethyl-2-(hydroxymethyl)pyrrolo[1,2-b]pyridazin-3-yl]propanoate | 200 mg | BrC=1C=C(C=NC1)C=1C=2N(N=C(C1CCC(=O)OCC)CO)C(=CC2)CC | C20H22BrN3O3
reactant | 3-(bromomethyl)pyridine hydrobromide | 234 mg | Br.BrCC=1C=NC=CC1
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-{4-(5-bromo-3-pyridinyl)-7-ethyl-2-[(3-pyridinylmethoxy)methyl]pyrrolo[1,2-b]pyridazin-3-yl}propanoic acid | 110 mg | BrC=1C=C(C=NC1)C=1C=2N(N=C(C1CCC(=O)O)COCC=1C=NC=CC1)C(=CC2)CC | C24H23BrN4O3
